US08202885B2
rac-(1R*,2R*,4R*)-2-(2-{[3-(4,6-Bis-trifluoromethyl-1H-benzoimidazol-2-yl)-propyl]-methyl-amino}-ethyl)-5-phenyl-bicyclo[2.2.2]oct-5-en-2-ol
Prepared according to procedures P2.2 to P2.3 in Example 21 using rac-(1R*,2R*,4R*)-(2-hydroxy-5-phenyl-bicyclo[2.2.2]oct-5-en-2-yl)-acetic acid and [3-(4,6-bis-trifluoromethyl-1H-benzoimidazol-2-yl)-propyl]-methyl-amine.

reactant | rac-(1R*,2R*,4R*)-(2-hydroxy-5-phenyl-bicyclo[2.2.2]oct-5-en-2-yl)-acetic acid | OC1(C2C=C(C(C1)CC2)C2=CC=CC=C2)CC(=O)O | C16H18O3
reactant | [3-(4,6-bis-trifluoromethyl-1H-benzoimidazol-2-yl)-propyl]-methyl-amine | FC(C1=CC(=CC=2NC(=NC21)CCCNC)C(F)(F)F)(F)F | C13H13F6N3
product | rac-(1R*,2R*,4R*)-2-(2-{[3-(4,6-Bis-trifluoromethyl-1H-benzoimidazol-2-yl)-propyl]-methyl-amino}-ethyl)-5-phenyl-bicyclo[2.2.2]oct-5-en-2-ol | FC(C1=CC(=CC=2NC(=NC21)CCCN(CCC2(C1C=C(C(C2)CC1)C1=CC=CC=C1)O)C)C(F)(F)F)(F)F | C29H31F6N3O
